US07176224B2
A mixture of 2-(4-chlorophenoxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester (0.030 mmol) (see Ex. 26, Part C), toluene-4-sulfonic acid 2-(2-biphenyl-3-yl-5-methyloxazol-4-yl)ethyl ester (0.030 mmol) (see Ex. 2, Part F) and 325 mesh K2CO3 (0.084 g, 0.60 mmol) in ethanol (2 mL) was heated to reflux for 24 h under N2. Aqueous 5N NaOH (0.5 mL) and additional ethanol (1 mL) was added to the reaction mixture and it was heated at reflux for an additional 2 h. The reaction was cooled and the solvent removed in vacuo. The residue was acidified with aqueous 1 N HCl (5 mL), extracted with water and CH2Cl2 and the organic layer dried by passing it through a Varian Chem Elut 1003 cartridge. The solvent was removed in vacuo to give 3-{4-[2-(2-biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-(4-chloro-phenoxy)-2-methyl-propionic acid. 1H NMR (400 MHz, CDCl3δ 8.12 (t, 1H, J=19.94 Hz), 7.87 (td, 1H, J=19.16 Hz, 7.43 Hz), 7.61 (t, 3H, J=7.43 Hz), 7.48–7.28 (m, 4H), 7.08 (t, 4H, J=6.65 Hz), 6.77 (td, 4H, J=24.63 Hz, 12.12 Hz), 4.16 (t, 2H, J=6.65 Hz), 3.18 (d, 1H, J=13.29 Hz), 3.00 (d, 1H, J=13.29 Hz), 2.90 (t, 2H, J=6.65 Hz), 2.52 (d, 1H, J=15.25 Hz), 2.32 (t, 2H, J=19.55 Hz), 1.29 (s, 3H) MS (ES+) m/z mass calcd for C34H31ClNO5 568.19, found 568.2.

reactant | 2-(4-chlorophenoxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester | 0.030 mmol | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC=C(C=C1)Cl)=O | C18H19ClO4
reactant | toluene-4-sulfonic acid 2-(2-biphenyl-3-yl-5-methyloxazol-4-yl)ethyl ester | 0.030 mmol | C1(=CC(=CC=C1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C)C1=CC=CC=C1 | C25H23NO4S
reactant | K2CO3 | 0.60 mmol, 0.084 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 5N, 0.5 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-{4-[2-(2-biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-(4-chloro-phenoxy)-2-methyl-propionic acid | C1(=CC=C(C=C1)C=1OC(=C(N1)CCOC1=CC=C(C=C1)CC(C(=O)O)(C)OC1=CC=C(C=C1)Cl)C)C1=CC=CC=C1 | C34H30ClNO5
